US06897231B2
A. 4-[N-(3-phenyl-1H-indazol-5-yl)carbamoyl]benzoic acid
Methyl 4-[N-(3-phenyl-1H-indazole-5-yl)carbamoyl]benzoate (92 mg, 0.247 mmol) was added to a solution of lithium hydroxide (10 mg, 1.23 mmol) in tetrahydrofuran (5 mL) and water (5 mL). The solution was allowed to stir at room temperature for 3 hours. The solution was acidified using a 5% HCl solution. The resulting white precipitate was filtered and dried to provide the title compound (62 mg, 70% yield). 1H NMR (DMSO-d6) δ 13.22 (br s, 1H), 10.48 (s, 1H), 8.55 (s, 1H), 8.06 (s, 4H), 7.92 (d, 2H), 7.75 (d, 1H), 7.55 (m, 3H), 7.38 (m, 1H); ES-MS (m/z) 358 [M+1]+.

reactant | Methyl 4-[N-(3-phenyl-1H-indazole-5-yl)carbamoyl]benzoate | 0.247 mmol, 92 mg | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)NC(=O)C1=CC=C(C(=O)OC)C=C1 | C22H17N3O3
reactant | lithium hydroxide | 1.23 mmol, 10 mg | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 4-[N-(3-phenyl-1H-indazol-5-yl)carbamoyl]benzoic acid | 62 mg, 70% yield | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)NC(=O)C1=CC=C(C(=O)O)C=C1 | C21H15N3O3
